US05679696
A stirred solution of 5-amino-2-methoxyphenol (10 g) in dry dioxane (150 mL) is treated portionwise with an oil suspension of sodium hydride (60%; 3 g; 75 mmol) and the mixture is then warmed at 60° C. for 30 minutes. It is then treated dropwise with a solution of cyclopentyl bromide (9.2 mL) and potassium iodide (50 mg) in dry dimethylformamide (20 mL) and heated at reflux for 5 hours. The mixture is then concentrated and the residue is treated with ethyl acetate (200 mL) and water (200 mL). The organic layer is then separated, washed with water (100 mL), aqueous sodium hydroxide solution (250 mL;1N), and with water (100 mL), and dried over magnesium sulfate. The concentration of the reaction mixture gives a dark oil, which is subjected to flash chromatography, eluting with a mixture of n-hexane and ethyl acetate (1:1 v/v), to give 3-cyclopentyloxy-4-methoxyaniline (4.43 g), in the form of an oil.

reactant | 5-amino-2-methoxyphenol | 10 g | NC=1C=CC(=C(C1)O)OC | C7H9NO2
reactant | sodium hydride | 75 mmol, 3 g | [H-].[Na+]
reactant | cyclopentyl bromide | 9.2 mL | C1(CCCC1)Br | C5H9Br
solvent | dioxane | 150 mL | O1CCOCC1 | C4H8O2
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
catalyst | potassium iodide | 50 mg | [I-].[K+]
product | 3-cyclopentyloxy-4-methoxyaniline | 4.43 g | C1(CCCC1)OC=1C=C(N)C=CC1OC | C12H17NO2
